2181-12-07 15:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2181-12-6**] 11:21 AM
   No Events overnight
   Feels better, no chest pain, other pain.  Breathing is much improved.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2181-12-6**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-12-7**] 03:25 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.4
   HR: 93 (70 - 93) bpm
   BP: 124/53(70) {109/31(52) - 148/60(79)} mmHg
   RR: 16 (11 - 26) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,094 mL
                                                                    677 mL
   PO:
                                                                    840 mL
                                                                    600 mL
   TF:
   IVF:
                                                                    254 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                  2,910 mL
                                                                  1,720 mL
   Urine:
                                                                  2,910 mL
                                                                  1,720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,816 mL
                                                                 -1,043 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///29/
   Physical Examination
   GENERAL: NAD, AOX3
   HEENT: JVP of 6cm
   CARDIAC: PMI non displaced.  RRR, 1/6 systolic murmur @ USB
   LUNGS: Scattered rales.  No wheezes.
   ABDOMEN:  moderate distension, liver edge palpable 3cm below costal
   margin, no fluid wave, BS+, non tender
   EXTREMITIES: WWP, trace bilat pedal edema R > L
   Labs / Radiology
   249 K/uL
   10.7 g/dL
   140 mg/dL
   2.2 mg/dL
   29 mEq/L
   3.7 mEq/L
   40 mg/dL
   104 mEq/L
   143 mEq/L
   31.3 %
   15.2 K/uL
                            [**2181-12-4**]  09:12 PM
                            [**2181-12-5**]  01:08 AM
                            [**2181-12-5**]  09:16 AM
                            [**2181-12-5**]  05:45 PM
                            [**2181-12-6**]  05:56 AM
                            [**2181-12-6**]  05:08 PM
                            [**2181-12-7**]  05:37 AM
   WBC
   13.3
   14.9
   13.9
   15.2
   Hct
   31.9
   29.2
   31.3
   31.5
   31.1
   31.3
   Plt
   274
   264
   255
   249
   Cr
   3.0
   2.8
   2.7
   2.6
   2.2
   2.2
   TropT
   1.41
   Glucose
   174
   186
   230
   113
   133
   140
   Other labs: CK / CKMB / Troponin-T:334/6/1.41, ALT / AST:20/29, Alk
   Phos / T Bili:61/1.8, Lactic Acid:1.6 mmol/L, Albumin:3.9 g/dL, LDH:256
   IU/L, Ca++:10.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   87 yoM w/ h/o CKD presents with acute on chronic diastolic CHF
   exacerbation and ACS. Likely progression of events: GIB -> Anemia ->
   Cardiac ischemia -> Tachycardia with poor diastolic filling time + 2U
   pRBC for Hct 22 in setting of chest pain -> CHF exacerbation.
   .
   # DIASTOLIC CONGESTIVE HEART FAILURE:  His presentation is consistent
   with acute on chronic CHF.  He was significantly diuresed, now 8L
   negative for LOS.  He has not had elevations in Cr or hypotension.
   ECHO showed no WMA or valvular disease, rather impaired relaxation.
   Tachycardia has generally resolved.
   - Will continue diuresis with lasix drip with a goal of 1-2L
   - Continue to wean O2 as tolerates
   .
   # LEUKOCYTOSIS: Low-grade temperature and persestantly elevated white
   count.  Elevated WBC could be a result of acute MI, but might also
   represent slowly brewing infection.  Urine culture negative.  Blood
   cultures pending.
   - Will check PA and lateral today to eval for brewing PNA that may have
   been masked by volume
   - Consider CT if worsening.
   - No antibiotics for now
   - Follow cultures.
   - re-culture if spikes, consider antibiotics based on CXR findings from
   today.
   .
   # NON-ST ELEVATION MYOCARDIAL INFARCTION - He presented with chest pain
   for 48 hours prior to admission and positive troponins but no ST or T
   wave changes on EKG.  His troponins came down over his first day and he
   remains pain free.  He was started on medical management with ASA, BB,
   statin, with a goal of adding an ACEi when renal function stabilizes.
   - ASA, Metoprolol, Statin
   - transfuse for hct < 30 if symptomatic
   - Will consider further diagnostic workup with stress, cath, MR, or CT
   once stable.
   .
   # SINUS TACHYCARDIA: Has was tachycardic since coming off BiPAP.
   Originally this was refractory to increasing doses of metoprolol from
   12.5mg TID to 75mg TID, that was done to allow for diastolic filling
   time.   His tachycardia has since improved with improving respiratory
   status, suggesting tachycardia was secondary to resp discomfort.
   .
   # GI BLEED: He presented with Hct drop and melena but since admission
   and transfusion Hct has been stable.  Given ACS transfuse to goal HCT
   of 30 with symptoms.  He had cirrhosis 30 years ago but hadn't had any
   further characterization, since then has cut down his drinking.  No
   physical exam findings of liver disease, but ultrasound showed fatty
   change.  US findings could be consistent with cirrhosis but is more
   likely related to congestion.
   - Type and screen, IVs, guaiac stool
   - GI following
   - protonix PO BID
   - having hard stool now, seen by GI in ED, consented by GI for EGD in
   case, likely in future
   .
   # ACUTE ON CHRONIC RENAL FAILURE: Baseline Cr 1.6, Peak here 3.
   - History consistent with prerenal causes but FeUrea not consistent
   (45%). [**Month (only) 8**] be ATN secondary to prolonged hypoperfusion, vs med related,
   vs postrenal.
   - If not improving obtain renal ultrasound
   .
   # ANION GAP ACIDOSIS: anion gap continues to be elevated at 16 with
   normal albumin.
   - Lactate normal, no sign of ketoacidosis
   - Possibly uremia
   - ? check tox screen or osmolar gap to eval for ingestions. IE:
   Ethylene glycol -> cardiopulm failure, renal failure, AG acidosis.
   .
   # HYPERKALEMIA: resolved with diuresis
   .
   # DM: lantus 7uqhs.  insulin sliding scale, goal BG < 150.
   - Poor control, will increase to 10U
   .
   FEN: Will advance diet.  NPO when planned for EGD.
   ACCESS: PIV's
   PROPHYLAXIS: pneumoboots, PPI given GI bleed
   CODE: FULL code
   CONTACT: [**Name (NI) **] in law [**Doctor Last Name **] [**Telephone/Fax (1) 2272**]; Daughter [**Name (NI) 2273**] [**Telephone/Fax (1) 2274**]
   [**Name2 (NI) **]O: CCU to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2181-12-4**] 10:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: